US06025375
A solution of 1-cyano-2-[(3-methoxyphenyl)methyl]-cyclohexane (3.60 g) and potassium hydroxide (2.82 g) in ethyleneglycol (12.3 ml) was refluxed for 5 hours, cooled to room temperature, and diluted with water and 5% sodium hydroxide aqueous solution. The resulting mixture was washed three times with diethyl ether, acidified with conc. hydrochloric acid, and extracted with diethyl ether. The extract was dried over magnesium sulfate and evaporated in vacuo to give 2-[(3-methoxyphenyl)-methyl]cyclohexanecarboxylic acid (3.11 g) as an oil.

reactant | 1-cyano-2-[(3-methoxyphenyl)methyl]-cyclohexane | 3.60 g | C(#N)C1C(CCCC1)CC1=CC(=CC=C1)OC | C15H19NO
reactant | potassium hydroxide | 2.82 g | [OH-].[K+]
reactant | ethyleneglycol | 12.3 ml | C(CO)O | C2H6O2
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-[(3-methoxyphenyl)-methyl]cyclohexanecarboxylic acid | 3.11 g | COC=1C=C(C=CC1)CC1C(CCCC1)C(=O)O | C15H20O3
